Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo man with ah history of dementia, iron def 
anemia, HL, DM  who is admitted for evaluation of his increased 
confusion.  By report he has been having worsening confusion for 
the past 6 months, but earlier today the patient took the keys 
to his car and was found by police driving around ___.  He 
apparently thought he was late for work.  He was brought into 
the emergency department where a CXR demonstrated a LUL 
consolidation concerning for pneumonia.  By his report, 
confirmed with his wife, he has had a dry cough for the past 
several months with a constant level of sputum production that 
has not worsened in the last several days or weeks.  He denies 
any fevers, chills, SOB, chest pressure or pleuritic pain.  He 
is an active smoker smoking a bag of pipe tobacco a week and has 
been smoking a least a PPD since the age of ___.  Additional note 
is made of weightloss of ___ lbs in the last several months 
for which he has undergone a significant GI work up with 
colonoscopy and endoscopy which showed small angioectasias in 
the stomach and doudenum s/p electrocautery.  
  
In the ED, initial vs were 98.5, 165/77, 65, 20, 98%.  A CXR 
showed a LUL pneumonia and NCHCT with no acute process.  He was 
given levofloxacin and admitted for further evaluation.
.
On arrival to the floor, patient reports no cough or dyspnea and 
is resting comfortably on room air.  
.  
ROS
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, shortness of breath, chest 
pain, abdominal pain, nausea, vomiting, diarrhea, constipation, 
BRBPR, melena, hematochezia, dysuria, hematuria. 
All other 10-system review negative in detail.  

 
Past Medical History:
- Iron-deficiency anemia
- angioectasias in the distal small bowel
- Hyperlipidemia
- Hypertension
- Diabetes
- Dementia
- COPD
- OSA
- GERD 
- Peptic Ulcers

 
Social History:
___
Family History:
nc
 
Physical Exam:
ADMISSION EXAM:
VS 98.9, 172/84, 74, 18 98RA
GEN Alert, oriented to person and hospital, no acute distress  
HEENT NCAT MMM EOMI sclera anicteric, OP clear  
NECK supple, no JVD, no LAD  
PULM Good aeration, no wheezes or crackles, ronchi at the mid 
back bilaterally
CV RRR normal S1/S2, no mrg
ABD soft NT ND normoactive bowel sounds, no r/g 
EXT WWP 2+ pulses palpable bilaterally, no c/c/e
NEURO CNs2-12 intact, motor function grossly normal  
SKIN no ulcers or lesions

DISCHARGE EXAM:
VS 97.9, 152/84, 66, 18 97RA
GEN Alert, oriented to person and hospital, no acute distress  
HEENT NCAT MMM EOMI sclera anicteric, OP clear  
NECK supple, no JVD, no LAD  
PULM Good aeration, no wheezes or crackles, ronchi at the mid 
back bilaterally
CV RRR normal S1/S2, no mrg
ABD soft NT ND normoactive bowel sounds, no r/g 
EXT WWP 2+ pulses palpable bilaterally, no c/c/e
NEURO CNs2-12 intact, motor function grossly normal  
SKIN no ulcers or lesions

 
Pertinent Results:
LABS:
___ 10:15AM BLOOD WBC-5.9# RBC-3.49* Hgb-8.6* Hct-28.6* 
MCV-82 MCH-24.7* MCHC-30.2* RDW-17.1* Plt ___
___ 10:15AM BLOOD Neuts-77.4* Lymphs-15.7* Monos-5.7 
Eos-0.8 Baso-0.4
___ 10:15AM BLOOD Glucose-108* UreaN-16 Creat-1.1 Na-141 
K-3.6 Cl-105 HCO3-25 AnGap-15
___ 06:45AM BLOOD Calcium-9.1 Phos-3.4 Mg-2.0

NCHCT: 
FINDINGS: There is no evidence of hemorrhage, edema, mass 
effect, or acute large vascular territory infarction. The 
ventricles and sulci are prominent suggesting age-related volume 
loss. Periventricular confluent white matter hypodensities are 
consistent with chronic small vessel ischemic disease. The basal 
cisterns are patent. No fracture is identified. The visualized 
paranasal sinuses, mastoid air cells, and middle ear cavities 
are clear. 
IMPRESSION: 
1. No acute intracranial process. 
2. Age-related volume loss and small vessel ischemic disease. 

CXR:  
FINDINGS: In the left perihilar region, there is a hazy 
opacification 
consistent with pneumonia. There is no pulmonary edema, pleural 
effusion, or pneumothorax. The cardiomediastinal silhouette is 
normal. There is elevation of the left hemidiaphragm, which is 
stable from the prior exam.  
IMPRESSION: Left perihilar pneumonia. Recommend followup 
radiographs after treatment to ensure resolution. 

CHEST CT W/ CONTRAST:
FINDINGS: There is a 4-cm area of consolidation in the superior 
segment of the left lower lobe suggestive pneumonia. No 
underlying masses identified.  Formation of air bronchograms and 
encasement of the left lower lobe pulmonary artery, without 
filling defects. Surrounding ground-glass opacities extend to 
the pleural surfaces.  
  
Spiculated nodules in the upper lobes, measuring 1.3 x 0.7 cm on 
the left 
(4:39) and 0.7 x 0.3 cm on the right (4:42). 2-mm smoothly 
marginated solid nodule in the right upper lobe (4:49), 2-3 mm 
perifissural nodules in the right middle lobe (4:119-120), 
rounded ground-glass opacity in the superior segment of the 
right lower lobe (4:109), and 5-mm ground-glass nodule in the 
left upper lobe (4:37).  
 
There is moderate, apical-predominant centrilobular/paraseptal 
emphysema and pleural parenchymal scarring. Diffuse mild 
peribronchial wall thickening, particularly in the middle and 
lower lobes. No obstructing endobronchial masses.  
  
In the left lung apex, focal pleural irregularity and 
calcification suggesting chronic disease. No pleural effusions. 
  
Prominent 9-mm subcarinal and 6-mm precarinal lymph nodes are 
likely reactive but can be reevaluated with follow-up CT.  
  
Heart is normal in size, without pericardial effusion. Calcific 
atherosclerosis throughout the thoracic aorta and coronary 
arteries. The 
central pulmonary arteries are unremarkable. 
  
Examination is not tailored for subdiaphragmatic evaluation, but 
reveals a 1.7-cm exophytic cyst in hepatic segment III. 
  
Multilevel degenerative changes in the thoracic spine. 
  
IMPRESSION: Findings consistent with left lower lobe pneumonia 
and pulmonary nodular opacities measuring up to 13 mm of 
uncertain etiology but malignancy is not excluded. Suggest 
radiographic follow-up within four weeks and chest CT in 3 
months to re-assess abnormalitites. 

 
Brief Hospital Course:
ASSESSMENT/PLAN: ___ yo w/ dementia, iron def anemia, DM, HTN and 
tobacconism presenting with worsening confusion and found to 
have a LUL infiltrate on CXR.  
.  
PNEUMONIA/LUNG NODULES: the patient was found to have a LUL 
consolidation on CXR as part of his work up for confusion. The 
concerning features of this finding include that the patient has 
not had any worsening of his chronic cough, has not noticed any 
increase in sputum production, has an extensive tobacco use 
history and has had unexplained weightloss over the past ___ 
months. Additionally the patient was noted to have a nodule in 
this area on a CXR from ___ though on repeat imaging with 
oblique views this lesion was not observed. These are concerning 
for possible malignancy especially given the upper lobe 
presentation and a CT CHEST With CONTRAST was performed and 
demonstrated several spiculated nodules concerning for 
malignancy though repeat CT in 3 months was recommended for 
monitoring.  Patient was treated for a CAP with levofloxacin 750 
mg for 5 days.
.
CONFUSION: Patient appears to be at his mental status baseline 
by his wife's report, but his behavior this morning of driving 
is very concerning. His daughter had returned his driver's 
liscence to the DMV after the incident and the patient was 
continued on aricept 10 mg daily and sertraline 100 mg QHS and 
memantine 10 mg BID.  
.  
DIABETES: Last A1c 7.1% on ___, currently on BID metformin 
and ___ hold metformin given pending contrast study and 
place on Humalog SS while in house.  Patient discharged on home 
medications.
.  
HTN: stable, will continue outpatinet amlodipine, carvedilol and 
losartan  
.  
HL: LDL 84 with HDL of 56 and total cholesterol of 153, will 
continue home atrovastatin 20 mg daily.  
.  
COPD: No evidence of aucte flare, not hypoxic, on levaquin for 
?PNA will continue home spiriva.  
.  
IRON DEFICENCY ANEMIA: Patient with a low ferritin, low iron and 
normal TIBC with a past microcytosis all consistant with iron 
deficency likely from chronic GI losses. WIll continue ferrous 
sulfate with colace while inpatient.  
.
TRANSITIONAL ISSUES:
-patient is a DNR/DNI confirmed on this admission
-patient will need repeat CT chest in 3 months to evaluate lung 
nodules
-blood cultures pending at time of discharge
 
Medications on Admission:
-amlodipine 5 mg daily  
-atorvastatin 20 mg daily  
-carvedilol 12.5mg BID  
-Donepezil 10 mg daily  
-___ 8 units daily  
-losartan 50 mg daily  
-memantine 10 mg daily  
-metformin 1000 mg BID  
-omeprazole 40 mg daily  
-sertraline 100 mg QHS  
-tiotropium 18 mcg daily  
-aspirin 325 mg daily  
-colace 100 mg BID  
-ferrous sulfate 325 mg daily  

 
Discharge Medications:
1. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO once a day.
Disp:*60 Tablet(s)* Refills:*2*
2. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. carvedilol 12.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. donepezil 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
5. losartan 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. memantine 10 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
8. sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
10. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

11. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
12. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 3 days.
Disp:*3 Tablet(s)* Refills:*0*
13. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
14. ___ 100 unit/mL Solution Sig: Eight (8) units 
Subcutaneous once a day.  
15. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Community Acquired Pneumonia
-Spiculated lung nodules

SECONDARY:
- Iron-deficiency anemia
- angioectasias in the distal small bowel
- Hyperlipidemia
- Hypertension
- Diabetes
- Dementia
- COPD
- OSA
- GERD 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you while you were in the 
hospital.  You were admitted for evaluation of your confusion 
and found to have a pneumonia.  You were given antibiotics which 
will treat this infection and should improve your confusion over 
the next several days.  It is VERY IMPORTANT that you no longer 
drive a car as this could be EXTREMLY DANGEROUS given your 
confusion.  

A CAT scan of your lungs showed several small nodules in your 
lugns that could be concerning given your long history of 
smoking.  Your primary care doctor Dr. ___ was made aware of 
these findings and you have an appointment in the next several 
days to follow up with him.

The following changes were made to your medications:
-START Levofloxacin 750 mg daily for 3 additional days
-CONTINUE all other home medications
-INCREASE amlodipine to 10 mg daily
 
Followup Instructions:
___